US06288061B1
Ethyl 5-(4-fluorophenyl)-2-(3-nitrophenyl)imidazole-4-carboxylate obtained by reacting and treating ethyl 2-hydroxyimino-3-(4-fluorophenyl)-3-oxopropionate and 3-nitrobenzylamine in the same manner as in Starting Material Synthetic Example 1 is dissolved in ethyl alcohol and 1 M aqueous sodium hydroxide solution is added. The mixture is reacted and treated in the same manner as in Starting Material Synthetic Example 2 to give 5-(4-fluorophenyl)-2-(3-nitrophenyl)imidazole-4-carboxylic acid.

reactant | ethyl 2-hydroxyimino-3-(4-fluorophenyl)-3-oxopropionate | ON=C(C(=O)OCC)C(=O)C1=CC=C(C=C1)F | C11H10FNO4
reactant | 3-nitrobenzylamine | [N+](=O)([O-])C=1C=C(CN)C=CC1 | C7H8N2O2
reactant | sodium hydroxide | 1 M | [OH-].[Na+]
solvent | ethyl alcohol | C(C)O | C2H6O
product | 5-(4-fluorophenyl)-2-(3-nitrophenyl)imidazole-4-carboxylic acid | FC1=CC=C(C=C1)C1=C(N=C(N1)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)O | C16H10FN3O4
